Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
S/P Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male who is here status post fall down about 10 
steps. He was treating tonight, horsing around with a friend
at the top of the steps when they both fell. He denies 
losing consciousness, complains of abdominal pain and left 
shoulder pain. No chest pain or trouble breathing. No 
headache or neck pain.
                       
 
Past Medical History:
PMH
1. Migraines

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Temp:97.6 HR:109 BP:115/78 Resp:16 O(2)Sat:100 Normal 
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Cervical collar in place, no C-spine tenderness
Chest: Clear to auscultation
Cardiovascular: Tachycardic
Abdominal: Soft, tender to palpation right upper quadrant 
and mid abdomen
Extr/Back: No cyanosis, clubbing or edema; no extremity 
tenderness including left shoulder, normal range of motion 
without pain
Skin: No rash, Warm and dry
Neuro: Speech fluent, CN ___ intact.  Motor strength ___ 
upper extremities and lower extremities. Sensation intact. 
FTN normal. ___ normal. There is no PND. Romberg negative. 
Gait normal, no ataxia. Reflexes 2+.

 
Pertinent Results:
___ 05:50AM BLOOD Hct-35.5*
___ 02:50AM BLOOD Hct-34.1*
___ 09:35PM BLOOD Hct-35.5*
___ 06:30AM BLOOD WBC-17.0* RBC-4.13* Hgb-12.9* Hct-36.9* 
MCV-89 MCH-31.3 MCHC-35.1* RDW-13.5 Plt ___
___ 06:30AM BLOOD Neuts-85.8* Lymphs-10.3* Monos-2.7 
Eos-0.9 Baso-0.2
___ 06:30AM BLOOD Plt ___
___ 05:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 05:00AM BLOOD ___ PTT-22.9 ___
___ 06:30AM BLOOD Glucose-97 UreaN-17 Creat-1.0 Na-141 
K-4.5 Cl-107 HCO3-22 AnGap-17
___ 05:00AM BLOOD ALT-574* AST-750* AlkPhos-64 TotBili-0.3
___ 05:00AM BLOOD Lipase-89*
___ 05:00AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___: cat scan of the head:

IMPRESSION: No acute intracranial process or fracture

___:  cat scan of the abdomen:

IMPRESSION: 
1. Multiple hepatic hypodensities c/w hepatic contusions with 
minimal 
perihepatic dense free fluid tracking down the right paracolic 
gutter into the pelvis; the fluid density is consistent with 
blood. 
2. Small pulmonary contusion at the right costophrenic angle. 
3. Subtle right renal hypodensity may represent contusion; no 
retroperitoneal fluid collection or perinephric stranding. 
4. Cortical irregularities at the lateral aspect of the right 
ribs 8 and 9 
may represent nondisplaced fractures - correlate clinically. 
5. No perisplenic fluid collection. 
6. No free air. 

___:  cat scan of the c-spine:

IMPRESSION: No fracture or malalignment

___:  chest x-ray:

IMPRESSION: No definite fracture

___:  left shoulder films:

IMPRESSION: No definite fracture

 
Brief Hospital Course:
  ___ year old gentleman who was admitted to the Acute Care 
service after falling down stairs.  Upon admission, he reported 
left shoulder pain, but denied loss of consciousness. He was 
made NPO, given intravenous fluids, and had imaging studies done 
of his head, abdomen, cervical spine, and left shoulder.  It was 
noted on CT scan that he did have a small liver laceration as 
well a pulmonary contusion and small kidney contusion. He 
underwent serial hematocrit checks along with serial abdominal 
exams.  His hematocrit remained in the 35 range.  He had mo 
abdominal pain, shortness of breath or hematuria. His blood work 
was positive for alcohol ingestion and urine positive for 
cocaine.  He was seen by Social services for substance abuse and 
recommendations were made for counselling. 
  His hospital course has been stable.   He is tolerating a 
regular diet.  His Foley catheter has been removed and he is 
voiding without difficulty.  He is afebrile and his vital signs 
are stable. He reported left shoulder discomfort but xrays were 
negative for fracture or dislocation. 
  After an uneventful recovery he was discharged to home on 
___ and will follow up in the ___ in ___ weeks.
  
 
Medications on Admission:
none
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation : hold for diarrhea.  
3. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO four times a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/P Fall
1. Liver laceration
2. Right pulmonary contusion
3. Right kidney contusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged from the hospital after you were 
admitted after a fall down steps.  You sustained a small liver 
laceration and bruise to your lung. You are now preparing for 
discharge with the following instructions:

You experience new chest pain, pressure, squeezing or tightness.

*New or worsening cough, shortness of breath, or wheeze, please 
continue to use your incentive spirormeter every ___ hours 
whicle awake.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Also, please take any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.  You should also avoid contact sports for 6 months.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please inform Acute Care Service if your shoulder pain worsens.

 
 
Followup Instructions:
___